US05283244
To a solution of 1 g of 7-(1-imidazolyl)-1-n-propylquinoxaline-2,3-(1H,4H)-dione hydrochloride in 8 ml of sulfuric acid was added 0.4 g of potassium nitrate, and the mixture was stirred overnight. The reaction mixture was poured in ice-water and adjusted to pH 7. The resulting crystals were recrystallized from 1N-hydrochloric acid to provide 0.9 g of 7-(1-imidazolyl)-6-nitro-1-n-propylquinoxaline-2,3-(1H,4H)-dione hydrochloride.

reactant | 7-(1-imidazolyl)-1-n-propylquinoxaline-2,3-(1H,4H)-dione hydrochloride | 1 g | Cl.N1(C=NC=C1)C1=CC=C2NC(C(N(C2=C1)CCC)=O)=O
reactant | potassium nitrate | 0.4 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
product | 7-(1-imidazolyl)-6-nitro-1-n-propylquinoxaline-2,3-(1H,4H)-dione hydrochloride | 0.9 g | Cl.N1(C=NC=C1)C1=C(C=C2NC(C(N(C2=C1)CCC)=O)=O)[N+](=O)[O-] | InChI=1S/C14H13N5O4.ClH/c1-2-4-18-10-7-11(17-5-3-15-8-17)12(19(22)23)6-9(10)16-13(20)14(18)21;/h3,5-8H,2,4H2,1H3,(H,16,20);1H
